US08754085B2
7-(7-Hydroxy-6-oxo-2,3-dip-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoic acid
To a solution of 7-(6-oxo-2,3-dip-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoic acid (Ex. 12.1) (100 mg, 0.219 mmol) in THF (2 ml), under a nitrogen atmosphere at −78° C., was treated dropwise with 1M lithium bis trimethylsilylamide in THF (0.5 ml, 0.500 mmol). Once the addition was complete, the mixture was stirred at −78° C. for 1 hour before a solution of (+)-(8,8-dichlorocamphorylsulfonyl)oxaziridine (78 mg, 0.262 mmol) in THF (2 ml) was added. The resultant solution was stirred at −78° C. for 60 minutes. The cooling was removed and the mixture allowed to warm to around −10° C. The mixture was allowed to slowly warm to room temperature overnight. The mixture was cooled to −78° C., quenched with sat. NH4Cl (3 ml) and allowed to slowly warm to room temperature. The yellow solution was diluted with water and extracted with EtOAc (×2). The aqueous layer (pH-9) was acidified to pH ˜2 with 1M HCl and extracted with DCM (×2). The combined organic extracts were dried (MgSO4) and evaporated under vacuum to give a yellow gum. The residue was purified by chromatography on silica eluting with 1% MeOH/DCM followed by 10% MeOH/DCM to afford the title compound;

reactant | 7-(6-oxo-2,3-dip-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoic acid | 0.219 mmol, 100 mg | O=C1CCC=2C(=NC(=C(N2)C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)N1CCCCCCC(=O)O | C28H31N3O3
reactant | lithium bis trimethylsilylamide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (+)-(8,8-dichlorocamphorylsulfonyl)oxaziridine | 0.262 mmol, 78 mg | CC1([C@@H]2CCC13CS(=O)(=O)N4[C@@]3(C2(Cl)Cl)O4)C | C10H13Cl2NO3S
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 0.500 mmol, 0.5 ml | C1CCOC1 | C4H8O
product | 7-(7-Hydroxy-6-oxo-2,3-dip-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoic acid | OC1CC=2C(=NC(=C(N2)C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)N(C1=O)CCCCCCC(=O)O | C28H31N3O4
